US05434181
A solution of 11.4 g of diethyl 2-oxopropylmalonate in 30 ml of tetrahydrofuran was added dropwise under ice-cooling over 20 minutes to a suspension of 5.00 g of lithium aluminum hydride in 100 ml of tetrahydrofuran. The reaction fluid was stirred for an hour under ice-cooling and for 4.5 hours at room temperature, and 10 ml of water was added thereto dropwise under ice-cooling over 20 minutes. The reaction fluid was refluxed for an hour and filtrated. The unfiltered solid was suspended in 200 ml of ethanol and the suspension was refluxed. The suspension was filtrated, and the filtrate combined with the foregoing filtrate was concentrated under a reduced pressure to obtain 7.08 g of 2-hydroxymethyl-1,4-pentanediol as a colorless oily matter.

reactant | diethyl 2-oxopropylmalonate | 11.4 g | O=C(CC(C(=O)OCC)C(=O)OCC)C | C10H16O5
reactant | lithium aluminum hydride | 5.00 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 10 ml | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-hydroxymethyl-1,4-pentanediol | 7.08 g | OCC(CO)CC(C)O | C6H14O3
